### PR TITLE
[Merged by Bors] - feat: absolute continuity of `Measure.compProd`

### PR DESCRIPTION
**Pull request by RemyDegenne**
For `μ ν : Measure α` and `κ η : Kernel α β`,
- If `μ ≪ ν` and `∀ᵐ a ∂μ, κ a ≪ η a`, then `μ ⊗ₘ κ ≪ ν ⊗ₘ η`
- If `μ ⊗ₘ κ ≪ ν ⊗ₘ η`, and `κ` is everywhere nonzero then `μ ≪ ν`

Also remove a few s-finite assumptions in the `Probability/Kernel/MeasureCompProd` file.

---

- [x] depends on: #14471

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/MeasureCompProd.lean [hunk 1]
```diff
@@ -118,4 +118,28 @@ instance [IsFiniteMeasure μ] [IsFiniteKernel κ] : IsFiniteMeasure (μ ⊗ₘ 
 instance [IsProbabilityMeasure μ] [IsMarkovKernel κ] : IsProbabilityMeasure (μ ⊗ₘ κ) := by
   rw [compProd]; infer_instance
 
+lemma absolutelyContinuous_compProd_left {ν : Measure α} [SFinite μ] [SFinite ν]
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/MeasureCompProd.lean:121]: You shouldn't need `SFinite μ` here, as a measure which is absolutely continuous wrt an s-finite measure is itself s-finite, right? (Not sure we have that in mathlib though).

File: Mathlib/Probability/Kernel/MeasureCompProd.lean [hunk 2]
```diff
@@ -118,4 +118,28 @@ instance [IsFiniteMeasure μ] [IsFiniteKernel κ] : IsFiniteMeasure (μ ⊗ₘ 
...
+    [SFinite μ] [IsSFiniteKernel κ] [IsSFiniteKernel η]
+    (hκη : ∀ᵐ a ∂μ, κ a ≪ η a) :
+    μ ⊗ₘ κ ≪ μ ⊗ₘ η := by
+  refine Measure.AbsolutelyContinuous.mk fun s hs hs_zero ↦ ?_
+  rw [Measure.compProd_apply hs, lintegral_eq_zero_iff (kernel.measurable_kernel_prod_mk_left hs)]
+    at hs_zero ⊢
+  filter_upwards [hs_zero, hκη] with a ha_zero ha_ac using ha_ac ha_zero
+
+lemma absolutelyContinuous_compProd {ν : Measure α}
+    [SFinite μ] [SFinite ν] [IsSFiniteKernel κ] [IsSFiniteKernel η]
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/MeasureCompProd.lean:139]: ditto.

File: Mathlib/Probability/Kernel/MeasureCompProd.lean (hunk 1 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/MeasureCompProd.lean:121]: I just proved that and will PR it. The way I did it ended up needing an unexpectedly large amount of stuff about s-finite measures, so that will be several PRs containing the following:
- if a measure `μ` is s-finite, then `μ.withDensity f` is s-finite
- any s-finite measure can be written as `withDensity` of a finite measure
- if we have two measures `μ, ν` and `ν` is finite, then `μ` can be written as a sigma-finite measure plus a measure which is infinite when `ν` is not zero. Halmos calls the proof technique used here the method of exhaustion.
- putting all of that together: 
```
lemma sFinite_of_absolutelyContinuous {μ ν : Measure α} [SFinite ν] (hμν : μ ≪ ν) : SFinite μ
```

That material should also allow us to generalize our Radon-Nikodym theorem.

Comment (sgouezel) [reply Mathlib/Probability/Kernel/MeasureCompProd.lean:121]: That's great!

**Review by sgouezel — COMMENTED** [review]
Looks great, thanks!
bors d+

**Comment by RemyDegenne** [comment]
Thanks for the reviews!
bors r+
